US07319104B2
N-[2-(3-Bromo-4-methoxyphenyl)ethyl]-5-isopropylpyrimidin-2-amine
Similarly prepared from 2-(3-bromo-4-methoxyphenyl)ethanamine and 2-chloro-5-isopropyl-pyrimidine (see below).

reactant | 2-(3-bromo-4-methoxyphenyl)ethanamine | BrC=1C=C(C=CC1OC)CCN | C9H12BrNO
reactant | 2-chloro-5-isopropyl-pyrimidine | ClC1=NC=C(C=N1)C(C)C | C7H9ClN2
product | N-[2-(3-Bromo-4-methoxyphenyl)ethyl]-5-isopropylpyrimidin-2-amine | BrC=1C=C(C=CC1OC)CCNC1=NC=C(C=N1)C(C)C | C16H20BrN3O
